US07452892B2
C. Preparation of 6-methylnicotinaldehyde oxime
To a solution of 6-methylnicotinaldehyde (1.67 g, 13.79 mmol) in 27.6 mL MeOH, hydroxylamine (50% weight in water, 0.87 mL, 14.2 mmol) was added. The reaction mixture was stirred at room temperature for 2 h and then at 40° C. for an additional 2 h. The reaction mixture was concentrated to obtain 1.76 g (94%) of the title compound as a light brown solid. HPLC: retention time=0.20 min.

reactant | 6-methylnicotinaldehyde | 13.79 mmol, 1.67 g | CC1=NC=C(C=O)C=C1 | C7H7NO
reactant | hydroxylamine | 14.2 mmol, 0.87 mL | NO | H3NO
solvent | MeOH | 27.6 mL | CO | CH4O
product | 6-methylnicotinaldehyde oxime | 1.76 g, 94% | CC1=NC=C(C=NO)C=C1 | C7H8N2O
